US07842685B2
To a slurry of 1-hydroxybenzotriazole (7.91 g, 58.5 mmol), 3-oxo-1-cyclopentanecarboxylic acid (5.00 g, 39.0 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (11.22 g, 58.5 mmol) in 44 mL DCM under nitrogen was added N,O-dimethylhydroxylamine hydrochloride (5.71 g, 58.5 mmol) followed by triethylamine (8.16 mL, 58.5 mmol) in portions. The reaction mixture became warm and was cooled with an ice bath for the remainder of TEA addition, then stirred at ambient temp under nitrogen for 2 d. The reaction mixture was concentrated in vacuo, and taken up in EA (300 mL), washed with water, sat'd aq. Sodium bicarbonate, brine, and the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo, to give (rac)-N-methoxy-N-methyl-3-oxocyclopentanecarboxamide as a yellow oil which was used without further purification. 1H NMR (400 MHz, CDCl3-d) δ ppm 3.74 (s, 3 H), 3.41-3.61 (m, 1 H), 3.23 (s, 3 H), 2.52-2.64 (m, 1 H), 2.34-2.50 (m, 2 H), 2.08-2.31 (m, 3 H).

reactant | 1-hydroxybenzotriazole | 58.5 mmol, 7.91 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-oxo-1-cyclopentanecarboxylic acid | 39.0 mmol, 5.00 g | O=C1CC(CC1)C(=O)O | C6H8O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 58.5 mmol, 11.22 g | Cl.CN(CCCN=C=NCC)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 58.5 mmol, 5.71 g | Cl.CNOC
reactant | triethylamine | 58.5 mmol, 8.16 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 44 mL | C(Cl)Cl | CH2Cl2
product | (rac)-N-methoxy-N-methyl-3-oxocyclopentanecarboxamide | CON(C(=O)C1CC(CC1)=O)C | C8H13NO3
